US05100971
200 ml of a solution of 9-borabicyclo[3.3.1]-nonane in tetrahydrofuran (0.5 mol/1) were initially taken in a thoroughly heated 500 ml three-necked flask. 100 mmol of N-(5-hexenyl)-carbazole in 100 ml of dry tetrahydrofuran were added dropwise. Thereafter, the mixture was stirred for 3 hours at room temperature and then 60 ml of ethanol, 20 ml of 6N sodium hydroxide solution and 40 ml of hydrogen peroxide (30% strength) were added in succession. The reaction mixture was then refluxed for one hour. It was then worked up by adding 200 ml of water and stripping off the tetrahydrofuran. The N-(6-hydroxyhexyl)-carbazole formed was extracted with ether and the ether extract was dried and evaporated. The resulting crude product was then recrystallized from 9:1 hexane/acetone. The N-(6-hydroxyhexyl)-carbazole was obtained in the form of white crystals in a 60% yield and had the following product characteristics:

reactant | 9-borabicyclo[3.3.1]-nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | N-(5-hexenyl)-carbazole | 100 mmol | C(CCCC=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H19N
reactant | sodium hydroxide | 6N, 20 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 40 ml | OO | H2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mol | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-(6-hydroxyhexyl)-carbazole | 60% yield | OCCCCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C18H21NO
